US06503949B1
4-Aminomethylbenzoic acid methyl ester, hydrochloride salt (2.2 g, 11 mmol) was suspended in 1,2 dichloropropane (30 mL) and an aqueous saturated solution of potassium carbonate (15 mL) was added. The next day the organic phase was isolated and dried (MgSO4). 4-Cyclopropylidenecyclohexanone (1.5 g, 11 mmol) dissolved in dichloromethane (15 mL) was added followed by addition of acetic acid (400 μL) and sodium triacetoxyborohydride (3.3 g, 16.5 mmol). After 72 hours at 20° C. the reaction mixture was diluted with dichloromethane (50 mL) and washed with aqueous saturated sodium hydrogen carbonate (2×30 mL) and water (5×30 mL). The organic phase was dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (50 g silica) using ethyl acetate and methanol (97:3) as eluent to give 1.1 g of 4-[(4-cyclopropylidenecyclohexylamino)methyl]benzoic acid methyl ester.

reactant | 4-Aminomethylbenzoic acid methyl ester, hydrochloride salt | 11 mmol, 2.2 g | Cl.COC(C1=CC=C(C=C1)CN)=O
reactant | potassium carbonate | 15 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Cyclopropylidenecyclohexanone | 11 mmol, 1.5 g | C1(CC1)=C1CCC(CC1)=O | C9H12O
reactant | sodium triacetoxyborohydride | 16.5 mmol, 3.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2 dichloropropane | 30 mL | ClCC(C)Cl | C3H6Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | acetic acid | 400 μL | C(C)(=O)O | C2H4O2
product | 4-[(4-cyclopropylidenecyclohexylamino)methyl]benzoic acid methyl ester | 1.1 g | COC(C1=CC=C(C=C1)CNC1CCC(CC1)=C1CC1)=O | C18H23NO2
